US04492692
A solution of 2-fluoro-1-triphenylmethylimidazole in THF was treated with t-butyllithium at -70° for 2 hours. A solution of toluene-p-sulphonyl azide in toluene was added, followed after 10 minutes by chlorotrimethylsilane, and the mixture allowed to come to 0°. Work-up and chromatography on magnesium silicate gave 4-azido-2-fluoro-1-triphenylmethylimidazole. This was dissolved in ether and treated with triphenylphosphine at 25°, to precipitate 2-fluoro-1-triphenylmethyl-4-(triphenylphosphimino)imidazole. A solution of this compound in EtOAc was treated for 10 minutes at 25° with propionyl chloride. Aqueous work-up, followed by magnesium silicate chromatography gave 2-fluoro-4-propionylamino-1-triphenylmethylimidazole, having the following n.m.r. in CDCl3 : 1.05 (t, 3H); 2.2 (q, 2H); 6.95 (s, 1H); 7.05-7.4 (m, 15H); 9.05 (s, 1H).

reactant | 2-fluoro-1-triphenylmethylimidazole | FC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17FN2
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | toluene-p-sulphonyl azide | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-azido-2-fluoro-1-triphenylmethylimidazole | N(=[N+]=[N-])C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C22H16FN5
